US05827868
B. trans-Cyclopentane-1,2-dimethanol
TLC: Rf =0.25, silica gel, ethyl acetate:hexane (1:1), cerium disulfate.

reactant | cerium disulfate | S(=O)(=O)([O-])OS(=O)(=O)[O-].[Ce+3].S(=O)(=O)([O-])OS(=O)(=O)[O-].S(=O)(=O)([O-])OS(=O)(=O)[O-].[Ce+3]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | trans-Cyclopentane-1,2-dimethanol | [C@@H]1([C@@H](CCC1)CO)CO | C7H14O2
